US06552188B2
Synthesis of N-cinnamoyl-N′-[[2-(3,4,5-trimethoxyphenyl)-pyridin-4-yl]methyl]piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (103 mg) and cinnamoyl chloride (65 mg) were reacted in the same manner as in Example 46 to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 103 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | cinnamoyl chloride | 65 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
product | N-cinnamoyl-N′-[[2-(3,4,5-trimethoxyphenyl)-pyridin-4-yl]methyl]piperazine | C(C=CC1=CC=CC=C1)(=O)N1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C28H31N3O4
